Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
GIB
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
___ female who initially presented to ___ w/ fatigue and
dark stools x3 days. 

Patient was recently diagnosed with calcific tendinitis in the
shoulder and started on ibuprofen which she was taking 600 mg 3
times a day (for approx. 10 days 2 weeks ago). Patient also
received a steroid injection.

Seen in urgent care earlier the day of presentation; had a 
rectal
exam that was guaiac positive with dark stool. Then presented to
___ where labs were notable for a hgb of 7.9, nl plt, nl coags,
Cr 0.5. Given pantoprazole 80 IV, 1L IVF and 1u pRBCs.

On arrival to ___, HR 80, BP 100/70. No hypoxemia or fevers.
hgb 7.1; labs otherwise unchanged. lactate 0.6. No imaging.
Consulted GI, but "haven't heard back".

No fevers or chills. No cough. No abdominal pain. No prior
history of GI bleeds.
 
Past Medical History:
- calcific tendinitis
- Vit D deficiency
 
Social History:
___
Family History:
- no fhx of GI illness

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: 98.6F, 72, 98/60, 15, 99% on RA
GEN:  NAD, appearing stated age
HEENT:  PERRL, EOMI, sclera anicteric, pale conjunctiva
NECK:  supple
CV:  rrr, s1s2
RESP:  CTAB
GI:  flat, soft, nt
SKIN:  no rash
NEURO:  AAOx3, moving all extremities anti gravity
PSYCH:  appropriate mood and affect

DISCHARGE EXAM:
========================
VS: ___ 0725 Temp: 99.7 PO BP: 94/57 HR: 76 RR: 16 O2 sat: 
99% O2 delivery: Ra 
GENERAL: no acute distress, lying in bed, comfortable
HEENT: MMM, normocephalic, atraumatic
CV: RRR, ___ systolic murmur at upper sternal border
LUNGS: CTAB
ABDOMEN: soft, no tenderness to palpation, normoactive bowel 
sounds
NEURO: alert and oriented x3, speech fluent
PSYCH: behavior and affect appropriate
 
Pertinent Results:
.
ADMISSON LABS
=============
___ 02:15AM BLOOD WBC-10.7* RBC-2.47* Hgb-7.1* Hct-23.3* 
MCV-94 MCH-28.7 MCHC-30.5* RDW-12.8 RDWSD-44.1 Plt ___
___ 02:15AM BLOOD Neuts-62.1 ___ Monos-7.0 Eos-2.4 
Baso-0.5 Im ___ AbsNeut-6.64* AbsLymp-2.93 AbsMono-0.75 
AbsEos-0.26 AbsBaso-0.05
___ 02:15AM BLOOD ___ PTT-28.2 ___
___ 02:15AM BLOOD Glucose-101* UreaN-19 Creat-0.5 Na-139 
K-3.9 Cl-111* HCO3-21* AnGap-7*
___ 02:15AM BLOOD Calcium-8.1* Phos-3.6 Mg-1.9
___ 02:23AM BLOOD Lactate-0.6
.
DISCHARGE LABS
=================
___ 07:08AM BLOOD WBC-8.7 RBC-2.46* Hgb-7.2* Hct-21.5* 
MCV-87 MCH-29.3 MCHC-33.5 RDW-13.4 RDWSD-42.3 Plt ___
___ 07:08AM BLOOD Glucose-101* UreaN-9 Creat-0.5 Na-142 
K-3.8 Cl-104 HCO3-28 AnGap-10
___ 07:08AM BLOOD Calcium-8.5 Phos-4.7* Mg-1.9
.
 
Brief Hospital Course:
Ms. ___ is a ___ female who initially p/w fatigue and 
dark stools x3
days, found to have anemia and guaiac positive stool, c/f UGIB 
in setting of 
recent NSAID use.
 
ACUTE ISSUES  
===============  
# Acute blood loss anemia:
# Upper GI bleed:
# Duodenal ulcer:
Initially admitted to MICU for monitoring overnight. Did not 
require any pressors or critical interventions. GI bleed nad 
ulcer possibly iso NSAID use. No BMs since arrival to ___ ED, 
so less c/f ongoing brisk bleed. Admitted to MICU.  Blood 
pressures borderline, but per pt at baseline. Lactate was flat.  
Was called out of MICU for EGD evaluation that revealed duodenal 
ulcer, which is the likely source of the bleed. Biopsies taken, 
and testing for H. Pylori sent. Post-EGD tolerated diet and 
feeling much improved with stable hemoglobin x3. Discharge 
hemoglobin was 7.2.

#CODE STATUS:  FULL (presumed)

CHRONIC ISSUES  
===============  
# Calcific tendinitis
- APAP given prn, patient counseled on avoiding NSAIDs

TRANSITIONAL ISSUES
===============
[] Repeat labs w/ CBC at PCP within one week after discharge
[] H. Pylori biopsy and serologies pending
[] Needs H. Pylori stool antigen testing since unable to have BM 
prior to d/c - patient provided with stool cup to go home with, 
instructed to bring in to PCP for testing
[] BID PPI for AT LEAST 8 weeks, written for script for 
pantoprazole

She was discharged to home on ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Duodenal ulcer
Upper GI bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital for fatigue and dark stools, 
likely due to bleeding from an ulcer in your small bowel. You 
had an endoscopy procedure on ___, which saw the ulcer, and 
biopsies were taken. The pathology from the biopsies is still 
pending at discharge. You will need to take a powerful antacid 
medication (PPI) twice daily for 8 weeks to calm down the ulcer. 
Please do not take any NSAID pain medications (including but not 
limited to Advil, Aleve, Motrin, or their generic equivalents 
ibuprofen and naproxen). You will also need to ___ with 
your primary care doctor to have your labs rechecked within one 
week.

It was a pleasure taking care of you!

Sincerely, the ___ Team
 
Followup Instructions:
___